US06972287B1
Preparation of 2-{4-[5-(3,4-Dichloro-phenyl)pentyl]phenylamino}-5-nitrobenzoic acid
To a cooled (−78° C.) solution of 4-[5-(3,4-dichlorophenyl)pentyl]-phenylamine (0.231 g, 0.75 mmol) in THF (2 mL), LHDMS (2.25 mL, 1 M in hexane, 2.25 mmol) was added dropwise. The reaction mixture was allowed to stir at −78° C. for 10 minutes. A solution of 2-fluoro-5-nitrobenzoic acid (0.139 g, 0.75 mmol) in THF (2 mL) was added dropwise, and this solution was stirred for 30 minutes at −78° C. The reaction mixture was allowed to gradually warm to room temperature and stir for 2 hours under N2 atmosphere. The reaction mixture was diluted with EtOAc, and acidified with 1N HCl (pH 3). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to yield a brown residue. Purification by flash chromatography (silica gel, 2% MeOH/CH2Cl2) then recrystallization with MeOH yielded 265 mg (0.56 mmol, 75%) of the desired product. mp 147-148° C.

reactant | 4-[5-(3,4-dichlorophenyl)pentyl]-phenylamine | 0.75 mmol, 0.231 g | ClC=1C=C(C=CC1Cl)CCCCCC1=CC=C(C=C1)N | C17H19Cl2N
reactant | 2-fluoro-5-nitrobenzoic acid | 0.75 mmol, 0.139 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | HCl | 1N, pH 3 | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{4-[5-(3,4-Dichloro-phenyl)pentyl]phenylamino}-5-nitrobenzoic acid | 0.56 mmol, 265 mg, 75% | ClC=1C=C(C=CC1Cl)CCCCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C24H22Cl2N2O4
